### PR TITLE
feat(QuantumMechanics): ladder and number operators of the harmonic oscillator, commutation relations

### PR DESCRIPTION
**Pull request by KevorkianPhilippe**
## AI disclosure

**AI disclosure.** This PR was generated with Claude Fable 5.1 (Claude Code) under my
supervision, following `AI-POLICY.md` and `AGENTS.md`. I have read every definition and lemma
statement and vouch that they state what the docstrings say. The statements were fixed before
the proofs were written and the operator identities were checked symbolically (sympy, in the
Schrodinger representation) beforehand.

Fills the first six TODO items of `Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean`
(sections A and B of the stub; the adjointness, symmetry and Hamiltonian items are left as TODO for
follow-up PRs).

In namespace `QuantumMechanics.HarmonicOscillator`, on `𝓢(Space d, ℂ)`:
- `loweringCLM`, `raisingCLM`: `aᵢ = (xᵢ/ξᵢ + i ξᵢ pᵢ/ℏ)/√2`, `aᵢ† = (xᵢ/ξᵢ - i ξᵢ pᵢ/ℏ)/√2`,
  built from `positionCLM` and `momentumCLM` (same `CLM` suffix: operators on Schwartz maps);
  `numberCLM`: `Nᵢ = aᵢ† aᵢ`.
- `lowering_commutation_raising`: `[aᵢ, aⱼ†] = δᵢⱼ 𝟙`; `lowering_commutation_lowering`,
  `raising_commutation_raising`, `raising_commutation_lowering`.
- `position_eq_lowering_add_raising`, `momentum_eq_raising_sub_lowering`: `xᵢ`, `pᵢ` recovered
  from the ladder operators.
- `number_commutation_number`: `[Nᵢ, Nⱼ] = 0`; `number_commutation_lowering`,
  `number_commutation_raising`: `[Nᵢ, aⱼ] = -δᵢⱼ aⱼ`, `[Nᵢ, aⱼ†] = δᵢⱼ aⱼ†`;
  `lowering_comp_raising`: `aᵢ aᵢ† = Nᵢ + 𝟙`.

All commutators are derived at the operator level from `position_commutation_momentum` through the
bilinearity of the bracket (`LieAlgebra.ofAssociativeAlgebra` as a local instance, like
`LieRing.ofAssociativeRing` in `Operators/Commutation.lean`) and the Leibniz rules `leibniz_lie`,
`lie_leibniz` of that file.

Reviewer map: the two definitions, then `lowering_commutation_raising` (the only computation), then
the four Leibniz-rule consequences of section B.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 1]
```diff
@@ -1,47 +1,263 @@
...
+* None.
 
 -/
 
 @[expose] public section
 
+noncomputable section
+namespace QuantumMechanics
+
+namespace HarmonicOscillator
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]:
```suggestion
namespace QuantumMechanics.HarmonicOscillator
```

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 2]
```diff
@@ -1,47 +1,263 @@
...
+/-!
 
-TODO "Prove that the raising/lowering operators are adjoints of one another (tag as simp?)."
+### A.1. Definitions
+
+-/
+
+/-- The lowering (annihilation) operator `aᵢ = (xᵢ/ξᵢ + i ξᵢ pᵢ/ℏ)/√2`, as a continuous linear
+  map on Schwartz maps. -/
+def lowering : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ) :=
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]:
```suggestion
def loweringCLM : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ) :=
```
I think it's nice to add CLM to clarify the operator on the Schwartz space from the corresponding operators on the Hilbert space.

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 3]
```diff
@@ -1,47 +1,263 @@
...
+  (Real.sqrt 2 : ℂ)⁻¹ • (((Q.ξ i : ℝ) : ℂ)⁻¹ • 𝐱 i + (I * ((Q.ξ i : ℝ) : ℂ) / (ℏ : ℂ)) • 𝐩 i)
+
+/-- The raising (creation) operator `aᵢ† = (xᵢ/ξᵢ - i ξᵢ pᵢ/ℏ)/√2`, as a continuous linear
+  map on Schwartz maps. -/
+def raising : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ) :=
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]:
```suggestion
def raisingCLM : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ) :=
```
Same as above

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 4]
```diff
@@ -1,47 +1,263 @@
...
-TODO "Define the number operators for the quantum harmonic oscillator
-  in terms of the ladder operators."
+/-!
+
+### B.1. Definition
+
+-/
+
+/-- The number operator `Nᵢ = aᵢ† aᵢ`. -/
+def number : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ) := Q.raising i ∘L Q.lowering i
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]:
```suggestion
def numberCLM : 𝓢(Space d, ℂ) →L[ℂ] 𝓢(Space d, ℂ) := Q.raising i ∘L Q.lowering i
```
Same as above

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 5]
```diff
@@ -52,3 +268,9 @@ TODO "Relate the 'number operator' Hamiltonian to the 'K + T' Hamiltonian
   (=/≤/≥ depending on their domains)."
 
 TODO "Prove that the two Hamiltonians define the same quantum system."
+
+end HarmonicOscillator
+
+end QuantumMechanics
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]:
```suggestion
end QuantumMechanics.HarmonicOscillator
```

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 6]
```diff
@@ -1,47 +1,263 @@
...
+
+lemma raising_eq : Q.raising i =
+    (Real.sqrt 2 : ℂ)⁻¹ • (((Q.ξ i : ℝ) : ℂ)⁻¹ • 𝐱 i - (I * ((Q.ξ i : ℝ) : ℂ) / (ℏ : ℂ)) • 𝐩 i) :=
+  rfl
+
+/-- The characteristic length is nonzero as a complex number. -/
+lemma ξ_ofReal_ne_zero : ((Q.ξ i : ℝ) : ℂ) ≠ 0 := by exact_mod_cast Q.ξ_ne_zero i
+
+/-- `ℏ` is nonzero as a complex number. -/
+lemma ℏ_ofReal_ne_zero : (ℏ : ℂ) ≠ 0 := by exact_mod_cast ℏ_ne_zero
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]: Could we move these to the files where these variables are defined?

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 7]
```diff
@@ -1,47 +1,263 @@
...
+    position_commutation_position, momentum_commutation_momentum, position_commutation_momentum,
+    ← lie_skew (𝐩 i) (𝐱 j), smul_zero, zero_add, smul_neg, smul_smul, KroneckerDelta.symm j i]
+  rcases eq_or_ne i j with rfl | hne
+  · simp only [eq_one_of_same, one_nsmul, add_zero]
+    ext ψ x
+    simp only [smul_apply, neg_apply, sub_apply, id_apply, smul_eq_mul]
+    have hξ := Q.ξ_ofReal_ne_zero i
+    have hℏ := ℏ_ofReal_ne_zero
+    field_simp
+    rw [I_sq, sqrt_two_sq_ofReal]
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]: Is is possible to move this before the field_simp? It makes it less likely to need to be repaired in the future

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 8]
```diff
@@ -1,47 +1,263 @@
...
+/-- `xᵢ = (ξᵢ/√2) (aᵢ + aᵢ†)`. -/
+lemma position_eq_lowering_add_raising :
+    𝐱 i = (((Q.ξ i : ℝ) : ℂ) / (Real.sqrt 2 : ℂ)) • (Q.lowering i + Q.raising i) := by
+  ext ψ x
+  simp [lowering, raising]
+  have hξ := Q.ξ_ofReal_ne_zero i
+  have hℏ := ℏ_ofReal_ne_zero
+  field_simp
+  ring_nf
+  rw [sqrt_two_sq_ofReal]
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]: Can we move this before field_simp and ring?

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean [hunk 9]
```diff
@@ -1,47 +1,263 @@
...
+/-- `pᵢ = (i ℏ/(√2 ξᵢ)) (aᵢ† - aᵢ)`. -/
+lemma momentum_eq_raising_sub_lowering :
+    𝐩 i = (I * (ℏ : ℂ) / ((Real.sqrt 2 : ℂ) * ((Q.ξ i : ℝ) : ℂ))) •
+      (Q.raising i - Q.lowering i) := by
+  ext ψ x
+  simp [lowering, raising]
+  have hξ := Q.ξ_ofReal_ne_zero i
+  have hℏ := ℏ_ofReal_ne_zero
+  field_simp
+  rw [I_sq, sqrt_two_sq_ofReal]
```
Comment (morrison-daniel) [inline Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]: Same as above

File: Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean (hunk 7 above)
Comment (KevorkianPhilippe) [reply Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]: Before `field_simp` the goal has no `I ^ 2` and no `√2 ^ 2` yet: `I` sits in two separate
factors (`I * ξ / ℏ * (I * ℏ)`) and `√2` in two `(√2)⁻¹`, so the rewrite would find nothing;
the squares only appear once the denominators are cleared. What works is to normalise first:
`ring_nf` collects `I ^ 2` (`I ^ 3` in `momentum_eq_raising_sub_lowering`, hence `I_pow_three`)
and `(√2)⁻¹ ^ 2`, then `rw [I_sq, inv_pow, sqrt_two_sq_ofReal]`, and `field_simp` closes the
goal. The rewrites now depend on the `ring_nf` normal form rather than on the shape `field_simp`
produces. Done in the three places.

Comment (morrison-daniel) [reply Physlib/QuantumMechanics/HarmonicOscillator/LadderOperators.lean]: That works, `ring_nf` gives a normal form that is more consistent than a simp output so it's less likely to change in the future.

**Review by morrison-daniel — APPROVED** [review]
Looks good, please update the PRs that depend on this
